US09403846B2
Step 6. Synthesis of N-hydroxy-2-{[1-(1-methylcyclopropyl)but-3-en-1-yl]oxy}ethanamine (C55)
{[1-(1-Methylcyclopropyl)but-3-en-1-yl]oxy}acetaldehyde (C54) (27.7 g from the previous step, ≦165 mmol) was dissolved in a 2:1 mixture of ethanol and water (39 mL). Sodium acetate (63.1 g, 770 mmol) was added; after the reaction mixture had been stirred for 15 minutes, hydroxylamine hydrochloride (98%, 32.1 g, 462 mmol) was added. The reaction mixture was heated to 60° C. for 24 hours. The reaction mixture was concentrated under reduced pressure to remove ethanol and extracted with dichloromethane (2×140 mL). The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo at 22° C. Silica gel chromatography (Gradient: 0% to 12% ethyl acetate in petroleum ether) provided the product as a colorless oil. By 1H NMR analysis, this material consisted of a roughly 1:1 mixture of E and Z oxime isomers. Yield: 4.1 g, 22.4 mmol, 48% over two steps. 1H NMR (400 MHz, CDCl3) δ [7.49 (t, J=5.6 Hz) and 6.91 (t, J=3.6 Hz), total 1H], 5.82-5.92 (m, 1H), 5.00-5.10 (m, 2H), {[4.52 (dd, half of ABX pattern, J=16.4, 3.2 Hz) and 4.35 (dd, half of ABX pattern, J=16.4, 3.6 Hz)] and [4.27 (dd, half of ABX pattern, J=13.2, 5.6 Hz) and 4.09 (dd, half of ABX pattern, J=12.8, 6.0 Hz)], total 2H}, 2.59-2.64 (m, 1H), 2.25-2.45 (m, 2H), 1.02 (s, 3H), 0.42-0.56 (m, 2H), 0.18-0.29 (m, 2H).

reactant | {[1-(1-Methylcyclopropyl)but-3-en-1-yl]oxy}acetaldehyde | CC1(CC1)C(CC=C)OCC=O | C10H16O2
reactant | Sodium acetate | 770 mmol, 63.1 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 462 mmol, 32.1 g | Cl.NO
solvent | ethanol | C(C)O | C2H6O
solvent | water | 39 mL | O | H2O
product | N-hydroxy-2-{[1-(1-methylcyclopropyl)but-3-en-1-yl]oxy}ethanamine | ONCCOC(CC=C)C1(CC1)C | C10H19NO2
